US04845291
Preparation of 2-(Cyclopent-2-enyl)-1,4-phenylenediamine
A 200g (1.85 mol) portion of 1,4-phenylenediamine, 170g (1.29 mol, 2.57 equiv.) of dicyclopentadiene, 225g (3.15 mol) of pentane, and 20g of 13% alumina/87% silica catalyst were reacted in a fashion similar to example 1. The reaction was conducted at 215° C. for 20 hr. with an initial pressure of 475 psig. Product analysis by gas chromatography on hydrocarbon free sample revealed the following assay:

reactant | 1,4-phenylenediamine | C1(=CC=C(C=C1)N)N | C6H8N2
reactant | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
solvent | pentane | CCCCC | C5H12
product | 2-(Cyclopent-2-enyl)-1,4-phenylenediamine | C1(C=CCC1)C1=C(C=CC(=C1)N)N | C11H14N2
